### PR TITLE
[Merged by Bors] - refactor: prove assumptions of `CompleteBooleanAlgebra`

### LINKED ISSUE #25849: `inf_sSup_le_iSup_inf` and `iInf_sup_le_sup_sInf` are provable in `CompleteBooleanAlgebra`
I believe the assumptions `inf_sSup_le_iSup_inf` and `iInf_sup_le_sup_sInf` in the `CompleteBooleanAlgebra` class might be redundant. It appears both can be derived directly from the properties of `CompleteLattice` and `BooleanAlgebra`.

Source code of  `CompleteBooleanAlgebra` :
https://github.com/leanprover-community/mathlib4/blob/7deb334c5f5104f4edad1a6396dd02a8cddefb86/Mathlib/Order/CompleteBooleanAlgebra.lean#L566-L570

Here's a possible proof for `inf_sSup_le_iSup_inf`:
```lean
import Mathlib.Logic.Equiv.Set
import Mathlib.Order.CompleteLattice.Lemmas
import Mathlib.Order.Directed
import Mathlib.Order.GaloisConnection.Basic
import Mathlib.Order.BooleanAlgebra

open Function Set

universe u

variable {α : Type u}



class ComplBooleanAlgebra (α) extends CompleteLattice α, BooleanAlgebra α where


section ComplBooleanAlgebra

variable {ι} [ComplBooleanAlgebra α] {s : Set α} {f : ι → α}

lemma inf_sSup_le_iSup_inf (a : α) (s : Set α) : a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b := by
  simp only [sSup_eq_iSup]
  have h : ⨆ b ∈ s, b ≤ (⨆ z ∈ s, a ⊓ z) ⊔ aᶜ := by
    apply iSup₂_le
    intro b hb
    calc b
      _ = (b ⊓ a) ⊔ (b ⊓ aᶜ)     := by rw [sup_inf_inf_compl]
      _ ≤ (b ⊓ a) ⊔ aᶜ           := by apply sup_le_sup_left; apply inf_le_right
      _ = (a ⊓ b) ⊔ aᶜ           := by rw [inf_comm]
      _ ≤ (⨆ z ∈ s, a ⊓ z) ⊔ aᶜ  := by apply sup_le_sup_right; apply le_iSup₂ b hb
  calc a ⊓ ⨆ b ∈ s, b
    _ ≤ a ⊓ ((⨆ z ∈ s, a ⊓ z) ⊔ aᶜ)     := by apply inf_le_inf_left a h
    _ = (a ⊓ ⨆ z ∈ s, a ⊓ z) ⊔ (a ⊓ aᶜ) := by apply inf_sup_left
    _ = a ⊓ ⨆ z ∈ s, a ⊓ z              := by rw [inf_compl_eq_bot', sup_bot_eq]
    _ ≤ ⨆ z ∈ s, a ⊓ z                  := by apply inf_le_right

end ComplBooleanAlgebra
```

Any constructive feedback on this proof would be greatly appreciated as I am a beginner both with Lean and mathlib. In the meantime, I will work on a similar proof for `iInf_sup_le_sup_sInf` (or maybe is it possible to get it by duality? Is there a strategy that proves a statement given a proof of its dual?).

Removing these assumptions would simplify the definition of `CompleteBooleanAlgebra` and facilitate the proof for instances of this class. Furthermore, this result appears to be a general property of Boolean algebras where the supremum exists. Specifically, for any `a` in a Boolean algebra `α` and a set `s` in `α` with a least upper bound `sSup s`, the set `{a ⊓ b | b ∈ s}` also has a least upper bound, and this least upper bound satisfies `a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b`. I'm exploring how this might be formally expressed and generalized within mathlib, but I would welcome any input.

### PR DESCRIPTION
**Pull request by PierreQuinton**
* Add proofs for `inf_sSup_le_iSup_inf` and `iInf_sup_le_sup_sInf`
* Remove proofs of those for instances of `CompleteBooleanAlgebra`

---

- Fixes #25849
- Breaking change: Any instance of `CompleteBooleanAlgebra` will fail until the user removes the proofs of both `inf_sSup_le_iSup_inf` and `iInf_sup_le_sup_sInf`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 1]
```diff
@@ -564,10 +564,20 @@ It is only completely distributive if it is also atomic.
...
+
+/-- `⊓` distributes over `⨆`. -/
+theorem inf_sSup_le_iSup_inf (a : α) (s : Set α) : a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b :=
+  gc_inf_himp.l_sSup.le
+
+/-- `⊔` distributes over `⨅`. -/
+theorem iInf_sup_le_sup_sInf (a : α) (s : Set α) : ⨅ b ∈ s, a ⊔ b ≤ a ⊔ sInf s :=
+  gc_sdiff_sup.u_sInf.ge
+
+end CompleteBooleanAlgebra
```
Comment (plp127) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]: Do we really need these? Can you add them back as deprecated instead?

Comment (PierreQuinton) [reply Mathlib/Order/CompleteBooleanAlgebra.lean]: I don't really understand. Do you want me to keep those as theorem and keep the original lines, but mark them as deprecated?

Comment (plp127) [reply Mathlib/Order/CompleteBooleanAlgebra.lean]: My reasoning is that, after `CompleteBooleanAlgebra.toCompleteDistribLattice`, you can just use `inf_sSup_eq` and `sup_sInf_eq` instead. So I think you should keep the theorems, but make them deprecated.
```suggestion
section CompleteBooleanAlgebra

variable [CompleteBooleanAlgebra α]

@[deprecated "use `inf_sSup_eq.le` instead" (since := "2025-06-15")]
theorem inf_sSup_le_iSup_inf (a : α) (s : Set α) : a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b :=
  gc_inf_himp.l_sSup.le

@[deprecated "use `sup_sInf_eq.ge` instead" (since := "2025-06-15")]
theorem iInf_sup_le_sup_sInf (a : α) (s : Set α) : ⨅ b ∈ s, a ⊔ b ≤ a ⊔ sInf s :=
  gc_sdiff_sup.u_sInf.ge

end CompleteBooleanAlgebra
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by YaelDillies** [comment]
maintainer merge

**Comment by PierreQuinton** [comment]
I just realized that we have this:
```lean
/--
A complete atomic Boolean algebra is a complete Boolean algebra
that is also completely distributive.

We take iSup_iInf_eq as the definition here,
and prove later on that this implies atomicity.
-/
-- We do not directly extend `CompletelyDistribLattice` to avoid having the `hnot` field
-- We do not directly extend `CompleteBooleanAlgebra` to avoid having the `inf_sSup_le_iSup_inf` and
-- `iInf_sup_le_sup_sInf` fields
class CompleteAtomicBooleanAlgebra (α : Type u) extends CompleteLattice α, BooleanAlgebra α where
  protected iInf_iSup_eq {ι : Type u} {κ : ι → Type u} (f : ∀ a, κ a → α) :
    (⨅ a, ⨆ b, f a b) = ⨆ g : ∀ a, κ a, ⨅ a, f a (g a)
```

I think we could now extend `CompleteBooleanAlgebra` here as we don't have the wrong fields anymore. Should I do that here or maybe open another PR?

**Comment by YaelDillies** [comment]
That should be another PR, but yes nicely spotted!

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
